US05723497
Preparation of 1-amino-2-octadecanol (IIh-7):
A 500-ml flask equipped with a stirrer was charged with 160 g (1.5 mol) of benzylamine, to which 29 g (0.11 mol) of 1,2-epoxyoctadecane were added dropwise over 3 hours while stirring at 100° C. Stirring was conducted further for 12 hours at 100° C. Benzyl alcohol was distilled off under reduced pressure, and the residue was charged into a 500-ml autoclave, to which 300 ml of ethanol and 10 g of 5% Pd/C were added to conduct hydrogenolysis for 48 hours at room temperature under a hydrogen pressure of 5 atm. After the catalyst was separated by filtration, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from hexane, thereby obtaining 26.1 g (yield: 83%) of the title compound (IIh-7).

reactant | benzylamine | 1.5 mol, 160 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,2-epoxyoctadecane | 0.11 mol, 29 g | O1CC1CCCCCCCCCCCCCCCC | C18H36O
product | 1-amino-2-octadecanol | 26.1 g, yield: 83% | NCC(CCCCCCCCCCCCCCCC)O | C18H39NO
